US04387238
Following the procedure of Example 1, monoethyl potassium epoxysuccinate (1.0 g) was successively treated with oxalyl chloride (0.75 g) and N-methylcyclohexylamine (1.15 g) to give 0.64 g of ethyl N-methyl-N-cyclohexyl-2,3-epoxysuccinamate (Compound No. 31) as colorless needles melting at 52°-55° C.

reactant | monoethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methylcyclohexylamine | 1.15 g | CNC1CCCCC1 | C7H15N
product | ethyl N-methyl-N-cyclohexyl-2,3-epoxysuccinamate | 0.64 g | CN(C(C1C(C(=O)OCC)O1)=O)C1CCCCC1 | C13H21NO4
